US04539423
To the same reaction vessel as in Example 9 were charged bistriphenylphosphinedibromopalladium (0.198 g, 0.25 mmole), stannous chloride (0.095 g, 0.5 mmole), tetra-n-butylammonium chloride (0.139 g, 0.5 mmole) and n-amyl nitrite (60 ml, 406.6 mmoles), together with monochlorobenzene (200 ml). Then, ketene, carbon monooxide and nitrogen were introduced to the mixture at the rate of 10.4 ml/min (0.46 mmole/min), 300 ml/min and 100 ml/min, respectively, and the reaction was effected for 5 hours. During the reaction, 10 ml of a solution of triphenylphosphine and stannous chloride (0.25 mmole each) in N-methylpyrrolidone was added to the reaction system in 2.5 ml portions every 1 hour. The reaction proceeded smoothly for 5 hours without termination of the reaction to give di-n-amyl malonate (116.2 mmoles, 83.8%) and n-amyl acetate (20.5 mmoles, 14.7%).

reactant | n-amyl nitrite | 406.6 mmoles, 60 ml | CCCCCON=O | C5H11NO2
reactant | ketene | C=C=O | C2H2O
reactant | carbon monooxide | [C]=O | CO
reactant | triphenylphosphine | C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1 | C18H15P
catalyst | tetra-n-butylammonium chloride | 0.5 mmole, 0.139 g | [Cl-].C(CCC)[N+](CCCC)(CCCC)CCCC
solvent | N-methylpyrrolidone | CN1C(CCC1)=O | C5H9NO
solvent | monochlorobenzene | 200 ml | ClC1=CC=CC=C1 | C6H5Cl
product | n-amyl acetate | 20.5 mmoles, 14.7% | CCCCCOC(=O)C | C7H14O2
